US08664210B2
To a stirred solution of 4-methyltestosterone (500 mg) in MeOH (60 ml) and NaOH 4N (2 ml) at 0° C., 30-32 wt. % H2O2 solution in water (2.0 ml) was added. The suspension was stirred at RT overnight. 10% aqueous Na2SO3 solution (5 ml) was cautiously added dropwise at 0° C. The mixture was saturated with NaCl and extracted three times with EtOAc. The combined organic extracts were dried over Na2SO4, filtered and evaporated to dryness. The crude product was purified by flash chromatography (SiO2, toluene/tert-butyl methyl ether 80/20) to give 4β-methyl-4α,5α-epoxy-17β-hydroxyandrostan-3-one (130 mg, 25%).

reactant | 4-methyltestosterone | 500 mg | CC1=C2CC[C@H]3[C@@H]4CC[C@@H]([C@]4(CC[C@@H]3[C@]2(CCC1=O)C)C)O | C20H30O2
reactant | H2O2 | OO | H2O2
reactant | Na2SO3 | 5 ml | [O-]S(=O)[O-].[Na+].[Na+]
reactant | NaCl | [Na+].[Cl-]
solvent | MeOH | 60 ml | CO | CH4O
solvent | NaOH | 4N, 2 ml | [OH-].[Na+]
solvent | water | 2.0 ml | O | H2O
product | 4β-methyl-4α,5α-epoxy-17β-hydroxyandrostan-3-one | 130 mg, 25% | C[C@]12[C@@]3(CC[C@H]4[C@@H]5CC[C@@H]([C@@]5(C)CC[C@@H]4[C@]3(CCC1=O)C)O)O2 | C20H30O3
